US07183311B2
2-Ureido-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide
The title compound was prepared by the same procedure as Example 2 except 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide was replaced with 2-amino-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide to give the above title compound as brown solid. ESMS m/z: 288 [M+H]+.

reactant | 2-amino-4H-indeno[1,2-b]thiophene-3-carboxylic acid amide | NC1=C(C2=C(S1)C1=CC=CC=C1C2)C(=O)N | C12H10N2OS
reactant | 2-amino-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide | NC1=C(C2=C(S1)C1=CC=CC=C1CC2)C(=O)N | C13H12N2OS
product | 2-Ureido-4,5-dihydro-naphtho[1,2-b]thiophene-3-carboxylic acid amide | N(C(=O)N)C1=C(C2=C(S1)C1=CC=CC=C1CC2)C(=O)N | C14H13N3O2S
